US04806549
Ethyl 2-butyryl-3-(2-methoxyphenylamino)acrylate (15.50 g, 0.053 mol) was added in portions to boiling diphenyl ether (400 ml) and the mixture heated under reflux for 1.5 hours. After cooling, the solution was diluted with ether and petroleum ether, filtered, and the solid washed with petroleum ether to give 3-butyryl-8-methoxy-4-(1H)-quinolone as light grey crystals (13.46 g, 63.1%). m.p. 200°-202°.

reactant | Ethyl 2-butyryl-3-(2-methoxyphenylamino)acrylate | 0.053 mol, 15.50 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)OC | C16H21NO4
reactant | diphenyl ether | 400 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ether | CCOCC | C4H10O
product | 3-butyryl-8-methoxy-4-(1H)-quinolone | C(CCC)(=O)C1=CNC2=C(C=CC=C2C1=O)OC | C14H15NO3
